US07875728B2
4-[(3,5-dichlorophenyl)hydrazono]-4H-pyrazole-3,5-diamine was prepared using 120 mg (0.5 mmol) of 2-[(3,5-dichlorophenyl)hydrazono]malononitrile, which was derived from 3,5-dichloroaniline (162 mg, 1.0 mmol) and malononitrile (1.5 mmol), and hydrazine hydrate. Precipitate formed in the reaction tube approximately 5 minutes after the addition of hydrazine hydrate. The resulting solid was isolated by filtration, precipitated from an ethyl acetate solution by the addition of hexanes, and dried to yield 25 mg (18%) of the compound as a yellow solid.

reactant | 2-[(3,5-dichlorophenyl)hydrazono]malononitrile | 0.5 mmol, 120 mg | ClC=1C=C(C=C(C1)Cl)NN=C(C#N)C#N | C9H4Cl2N4
reactant | 3,5-dichloroaniline | 1.0 mmol, 162 mg | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | malononitrile | 1.5 mmol | C(CC#N)#N | C3H2N2
reactant | hydrazine hydrate | O.NN
product | 4-[(3,5-dichlorophenyl)hydrazono]-4H-pyrazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NN=C1C(=NN=C1N)N | C9H8Cl2N6
